2197-03-11 08:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events
   Allergies:
   Aspirin
   Unknown;
   Nsaids
   Unknown;
   Trimethoprim
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-11**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.2
   HR: 76 (65 - 77) bpm
   BP: 149/57(79) {132/51(71) - 154/67(87)} mmHg
   RR: 18 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,479 mL
                                                                    190 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    129 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                      0 mL
   Urine:
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    929 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Ecchymoses over left orbit - mildly TTP, sclera anicteric, MMM,
   +thrush
   Neck: Supple, JVP elevated to angle of jaw, no LAD
   Lungs: Minimal crackles at bases, no wheezes or rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, 3/6 systolic mm across
   precordium and radiating to axilla, no rubs or gallops
   Abdomen: Soft, non-tender, obese but non-distended, no fluid wave,
   bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: No foley
   Ext: Warm, well perfused, 2+ pulses, ecchymoses over LLE, range of
   motion intact, 1+ edema to knees b/l
   Labs / Radiology
   107 K/uL
   6.6 g/dL
   218 mg/dL
   1.3 mg/dL
   21 mEq/L
   5.3 mEq/L
   63 mg/dL
   111 mEq/L
   141 mEq/L
   21.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2197-3-10**]  08:54 PM
                             [**2197-3-11**]  04:08 AM
   WBC
   14.2
   Hct
   22.0
   21.2
   Plt
   107
   Cr
   1.3
   Glucose
   218
   Other labs: PT / PTT / INR:10.4/20.5/0.9, Ca++:7.9 mg/dL, Mg++:2.4
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 .H/O HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, CHRONIC
 CEREBROVASCULAR DISEASE, OTHER
 ATRIAL FIBRILLATION (AFIB)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   89 yo female with DM, CHF, cryptogenic cirrhosis, s/p splenectomy,
   undergoing thrombocytopenia w/u with question of ITP, recently admitted
   for BRBPR who represents with GI bleed.
   .
   # GI bleed: 1 episode of dark red stool today.  Likely LGIB rather than
   UGIB absence of frank melena, stable hemodynamics, negative NG lavage,
   and recent unremarkable upper EGD.  Given recent colonoscopy finding,
   most likely etiologies are rectal varices, diverticuli, or hemorrhoids.
   Hct currently relatively stable at low end of baseline (24-27);
   hemodynamically stable without evidence of continued active bleeding.
   - Appreciate Liver recs
   - Active T&S
   - Monitor Hct q6h
   - PIV x 2 for access
   - Transfuse for Hct <22 (would avoid transfusion to Hct >25 in pt with
   portal hypertension due to risk of rebound bleeding)
   - Clears for now, NPO p 4am for flex sig in AM
   - Octreotide gtt for now
   - Cont home pantoprazole 40mg daily as UGIB unlikely
   - No need for cipro ppx per Liver team as not UGIB and pt w/o ascites
   - Hold antihypertensives for now
   .
   # Thrombocytopenia: Etiology thought to be ITP; plts improving on
   prednisone.  With ITP, pts usually not at increased bleeding risk even
   with markedly decreased plt counts
   - Decrease prednisone to 30mg as recommended by Heme-Onc
   .
   # Thrush: Likely secondary to prednisone.
   - Nystatin S&S qid
   .
   # Cryptogenic cirrhosis: No signs of encephalopathy. Appears
   compensated.
   - Holding natalol for now, resume if HD stable
   - Appreciate liver recs
   .
   # CRF: At baseline Cr 1.4
   - Trend Cr
   - Renally dose meds, avoid nephrotoxins
   .
   # CHF: Nl EF on recent TTE.  Pt with evidence of mild fluid overload
   but breathing comfortably and satting well on room air.  Given GI
   bleed, will hold diuresis for now.
   - Monitor I/O, daily weights
   - Resume lasix when able
   .
   # HTN: Pressures more elevated recently per daughter in setting of
   prednisone.
   - Hold BP meds for now given GI bleed but restart as needed if remains
   HD stable
   .
   # DM Type II: [**Month (only) 11**] have elevated FSBS in setting of steroids
   - FSG qid with HISS for now
   .
   # S/p fall: CT head w/o evidence of acute path on prelim read.  Pt
   neurologically intact and reportedly with resolving ecchymoses.
   - Monitor exam
   - F/u CT head final read
   .
   # FEN: No IVF, replete electrolytes, clears for now, then NPO in AM for
   flex sig
   # Prophylaxis: Pneumoboots
   # Access: Peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient). HCP is daughter [**Name (NI) 1035**]
   [**Telephone/Fax (1) 11840**].
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-10**] 07:00 PM
   20 Gauge - [**2197-3-10**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-03-11 10:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GI bleed, anemia secondary to blood loss
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -hct stable
   -Sigmoidoscopy this morning
   Allergies:
   Aspirin
   Unknown;
   Nsaids
   Unknown;
   Trimethoprim
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2197-3-11**] 09:00 AM
   Fentanyl - [**2197-3-11**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-11**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.2
   HR: 69 (65 - 77) bpm
   BP: 152/70(89) {132/51(71) - 154/70(89)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,479 mL
                                                                    225 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    129 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                      0 mL
   Urine:
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    929 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   107 K/uL
   218 mg/dL
   1.3 mg/dL
   21 mEq/L
   5.3 mEq/L
   63 mg/dL
   111 mEq/L
   141 mEq/L
   21.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2197-3-10**]  08:54 PM
                             [**2197-3-11**]  04:08 AM
   WBC
   14.2
   Hct
   22.0
   21.2
   Plt
   107
   Cr
   1.3
   Glucose
   218
   Other labs: PT / PTT / INR:10.4/20.5/0.9, Ca++:7.9 mg/dL, Mg++:2.4
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
   -SSRI per FSG
   -restart diet
 H/O HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, CHRONIC
   -following I/Os
   -restart lasix after unit blood
   -minimal rales in bases
 ATRIAL FIBRILLATION (AFIB)
   -meds on hold
   -restart later today if cont to do well
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   -presumed due to large rectal varices
   -s/p sigmoidoscopy - glue injection varices
   -hemodynamically stable through
   -hct down overnight, transfuse 1 unit pRBC
   -GI okay with advancing diet
   -octreotide drip for another 24hrs
   - access PIV 18 & 20
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-10**] 07:00 PM
   20 Gauge - [**2197-3-10**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2197-03-12 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2197-3-11**] 09:00 AM
   [**2197-3-11**]
   - Scope in AM - large rectal varices without bleeding, ethiodol
   injection with hemostasis in the rectal varices
   - transfused 1 unit PRBC for HCT of 21
   - Hypertensive in the afternoon - gave hydralazine for SBP of 185,
   started captopril 37.5 TID and amlodipine 5mg daily with improved
   control of BP
   Allergies:
   Aspirin
   Unknown;
   Nsaids
   Unknown;
   Trimethoprim
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2197-3-11**] 09:00 AM
   Fentanyl - [**2197-3-11**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged.
   Flowsheet Data as of  [**2197-3-12**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 85 (64 - 85) bpm
   BP: 164/68(93) {133/53(72) - 193/93(109)} mmHg
   RR: 25 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    847 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                    472 mL
                                                                    126 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,930 mL
                                                                    750 mL
   Urine:
                                                                  1,930 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,083 mL
                                                                   -624 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Ecchymoses over left orbit - mildly TTP, sclera anicteric, MMM,
   +thrush
   Neck: Supple, JVP elevated to angle of jaw, no LAD
   Lungs: Minimal crackles at bases, no wheezes or rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, 3/6 systolic mm across
   precordium and radiating to axilla, no rubs or gallops
   Abdomen: Soft, non-tender, obese but non-distended, no fluid wave,
   bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: No foley
   Ext: Warm, well perfused, 2+ pulses, ecchymoses over LLE, range of
   motion intact, 1+ edema to knees b/l
   Labs / Radiology
   129 K/uL
   9.0 g/dL
   147 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.5 mEq/L
   60 mg/dL
   108 mEq/L
   143 mEq/L
   28.6 %
   19.5 K/uL
        [image002.jpg]
                             [**2197-3-10**]  08:54 PM
                             [**2197-3-11**]  04:08 AM
                             [**2197-3-11**]  07:39 PM
                             [**2197-3-12**]  04:54 AM
   WBC
   14.2
   19.5
   Hct
   22.0
   21.2
   27.1
   28.6
   Plt
   107
   129
   Cr
   1.3
   1.6
   Glucose
   218
   147
   Other labs: PT / PTT / INR:10.6/19.1/0.9,
    Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   89 yo female with DM, CHF, cryptogenic cirrhosis, s/p splenectomy,
   undergoing thrombocytopenia w/u with question of ITP, recently admitted
   for BRBPR who represents with GI bleed.
   .
   # GI bleed:.  Likely LGIB rather than UGIB absence of frank melena,
   stable hemodynamics, negative NG lavage, and recent unremarkable upper
   EGD.  Given recent colonoscopy finding, most likely etiologies are
   rectal varices, diverticuli, or hemorrhoids.  Scoped on [**3-10**] noted to
   have rectal varices without active bleeding, hemostasis achieved with
   ethadiol injection.  Patient has remained hemodynamically stable,
   transfused 1unit for HCT 21 with response to 27, has remained stable.
   - monitor on telemetry
   - PIV x 2 for access
   - active type and screen
   - monitor HCT Q8-12hrs
   - Transfuse for Hct <22 (would avoid transfusion to Hct >25 in pt with
   portal hypertension due to risk of rebound bleeding)
   - follow up with GI regarding Octreotide gtt through this AM then ?
   D/C
   - Cont home pantoprazole 40mg daily as UGIB unlikely
   - will discuss restart nadolol with liver team
   - slowly advance diet
   - No need for cipro ppx per Liver team as not UGIB and pt w/o ascites
   - f/u liver recs
   .
   # Thrombocytopenia: Etiology thought to be ITP; plts improving on
   prednisone.  With ITP, pts usually not at increased bleeding risk even
   with markedly decreased plt counts
   - Decrease prednisone to 30mg as recommended by Heme-Onc
   - will need to f/u with Hematology as an outpatient
   .
   #Leukocytosis:  Patient afebrile without localizing symptoms of
   infection
   - add on differential
   - UA and Cx
   - CXR
   - blood Cx
   .
   # Thrush: Likely secondary to prednisone.
   - Nystatin S&S qid
   .
   # Cryptogenic cirrhosis: No signs of encephalopathy. Appears
   compensated.
   - will restart home nadolol
   - Appreciate liver recs
   .
   # CRF: Slowly trending up from baseline of 1.3 to 1.6 today.
   - Trend creatinine
   - Renally dose meds, avoid nephrotoxins
   - consider urine lytes
   .
   # CHF: Nl EF on recent TTE.  Pt with evidence of mild fluid overload
   but breathing comfortably and satting well on room air.
   - Monitor I/O, daily weights
   - re-start lasix this AM
   .
   # HTN: Pressures more elevated recently per daughter in setting of
   prednisone.
   - continue amlodipine 5mg [**Hospital1 **]
   - change captopril to home dose of lisinopril
   .
   # DM Type II: [**Month (only) 11**] have elevated FSBS in setting of steroids
   - FSG qid with HISS for now
   .
   # S/p fall: CT head w/o evidence of acute path on prelim read.  Pt
   neurologically intact and reportedly with resolving ecchymoses. CT head
   unremarkable.
   - Monitor exam
   - PT consult for home evaluation versus rehab
   .
   # FEN: No IVF, replete electrolytes, ADAT renal diet
   # Prophylaxis: Pneumoboots
   # Access: Peripherals (18, 20)
   # Communication: Patient
   # Code:  Full (discussed with patient). HCP is daughter [**Name (NI) 1035**]
   [**Telephone/Fax (1) 11840**].
   # Disposition: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-10**] 07:00 PM
   20 Gauge - [**2197-3-11**] 07:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-03-12 10:23:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GIB, blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 COLONOSCOPY - At [**2197-3-11**] 09:00 AM
 CALLED OUT
   -transfused 1u pRBC
   -hypertension sbp 190s - hydralazine and restarted on home antiHTN meds
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Nsaids
   Unknown;
   Trimethoprim
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-12**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 99 (64 - 99) bpm
   BP: 175/70(92) {133/53(72) - 193/93(109)} mmHg
   RR: 30 (18 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    847 mL
                                                                    185 mL
   PO:
             TF:
   IVF:
                                                                    472 mL
                                                                    185 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,930 mL
                                                                    950 mL
   Urine:
                                                                  1,930 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,083 mL
                                                                   -765 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   129 K/uL
   147 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.5 mEq/L
   60 mg/dL
   108 mEq/L
   143 mEq/L
   28.6 %
   19.5 K/uL
        [image002.jpg]
                             [**2197-3-10**]  08:54 PM
                             [**2197-3-11**]  04:08 AM
                             [**2197-3-11**]  07:39 PM
                             [**2197-3-12**]  04:54 AM
   WBC
   14.2
   19.5
   Hct
   22.0
   21.2
   27.1
   28.6
   Plt
   107
   129
   Cr
   1.3
   1.6
   Glucose
   218
   147
   Other labs: PT / PTT / INR:10.6/19.1/0.9, Differential-Neuts:78.0 %,
   Band:1.0 %, Lymph:13.0 %, Mono:7.0 %, Eos:0.0 %, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
   -SSRI per FSG
   -advanced to diabetic diet

 H/O HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, CHRONIC
   -following I/Os
   -restarted lasix
   -minimal rales in bases
 ATRIAL FIBRILLATION (AFIB)
 Renal function
   -creat trending up
   -gentle fluids, follow creat, urine output
   -home meds restarted
 Leukocytosis
   -afebrile
   - no obvious infectious source -check CXR, UCx, SCx if produces.
   -on pred for ITP but not new so less likely to cause acute elevation
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   -presumed due to large rectal varices
   -s/p sigmoidoscopy - glue injection varix
   -hemodynamically stable throughout
   -hct stable
   -octreotide drip - check with GI if okay to stop today
   - access PIV 18 & 20
   -? restart nadalol
 d/w GI
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-10**] 07:00 PM
   20 Gauge - [**2197-3-11**] 07:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: